US07125901B2
Ethyl 3-bromo-4-(4-iodophenyl)-2-oxobutanoate (1.32 g) was dissolved in ethanol (26 ml), and then, thiourea (244 mg) was added to the solution. The reaction mixture was refluxed for 1 h under nitrogen atmosphere. The cooled reaction mixture was evaporated in vacuo. The crude material was triturated with diethyl ether to give ethyl 2-amino-5-(4-iodobenzyl)-1,3-thiazole-4-carboxylate hydrobromide as a pale yellow solid.

reactant | Ethyl 3-bromo-4-(4-iodophenyl)-2-oxobutanoate | 1.32 g | BrC(C(C(=O)OCC)=O)CC1=CC=C(C=C1)I | C12H12BrIO3
reactant | thiourea | 244 mg | NC(=S)N | CH4N2S
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | ethyl 2-amino-5-(4-iodobenzyl)-1,3-thiazole-4-carboxylate hydrobromide | Br.NC=1SC(=C(N1)C(=O)OCC)CC1=CC=C(C=C1)I | InChI=1S/C13H13IN2O2S.BrH/c1-2-18-12(17)11-10(19-13(15)16-11)7-8-3-5-9(14)6-4-8;/h3-6H,2,7H2,1H3,(H2,15,16);1H
